US08133995B2
Step 6: Preparation of 1-[4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanol
To a solution of AcOH (70 mL) was added 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)ethanol (611 mg, 3.43 mmol) followed by the addition of a 0.5 M solution of 37% formaldehyde in water (0.26 mL, 3.43 mmol) and morpholine (0.30 mL, 3.43 mmol) in AcOH (6.86 mL) was added. The reaction was heated to 60° C. for 1.5 h. The solution was allowed to cool to rt and was then evaporated via rotary evaporation chasing the remaining AcOH with toluene. The crude material was purified by column chromatography (85:15 v/v CH2Cl2-EtOAc) to afford 633 mg of the above compound (2.28 mmol, yield 67%). 1H-NMR (DMSO-d6) δ 7.79 (s, 1H), 7.57 (br s, 2H), 6.85 (s, 1H), 4.94 (m, 1H), 3.84 (m, 2H), 3.49 (m, 4H), 2.37 (m, 4H), 1.41 (d, J=6.6 Hz, 3H); MS [M+H]+=278.0; LCMS RT=1.01 min.

reactant | 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)ethanol | 3.43 mmol, 611 mg | NC1=NC=NN2C1=CC(=C2)C(C)O | C8H10N4O
reactant | formaldehyde | C=O | CH2O
reactant | water | 3.43 mmol, 0.26 mL | O | H2O
reactant | morpholine | 3.43 mmol, 0.30 mL | N1CCOCC1 | C4H9NO
solvent | AcOH | 6.86 mL | CC(=O)O | C2H4O2
solvent | AcOH | 70 mL | CC(=O)O | C2H4O2
product | 1-[4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanol | 2.28 mmol, 633 mg, yield 67% | NC1=NC=NN2C1=CC(=C2CN2CCOCC2)C(C)O | C13H19N5O2
